US08026257B2
Methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetate.
To a heterogeneous mixture of sodium hydroxide (4M in water, 25 mL) and diethyl ether (75 mL) at 0° C. was added N-methyl-N′-nitro-N-nitrosoguanidine (2.24 g, 15.3 mmol) with swirling (no stirbar). After addition was complete, the mixture was allowed to stand at 0° C. for 15 min with occasional swirling. The ethereal was transferred in portions to a suspension of 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid (2.6 g, 7.63 mmol) in diethyl ether (50 mL) until the yellow color persisted and all of the starting material had gone into solution. The reaction was allowed to rest at room temperature for 5 min before bubbling nitrogen through the solution to remove most of the unreacted diazomethane. Column chromatography (25% ethyl acetate/n-hexane) gave 2.28 g (84%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 8.02 (s, 1H), 7.56 (d, J=1.5 Hz, 1H), 7.14 (d, J=0.9 Hz, 1H), 5.67 (s, 2H), 4.01 (s, 2H), 3.70 (s, 3H), 3.61 (t, J=8.2 Hz, 2H), 0.92 (t, J=8.3 Hz, 2H), −0.04 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 171.3, 146.9, 127.7, 127.5, 126.0, 122.61, 122.57, 118.3, 82.0, 67.7, 52.1, 36.1, 17.9, −1.4.

reactant | sodium hydroxide | 4M, 25 mL | [OH-].[Na+]
reactant | N-methyl-N′-nitro-N-nitrosoguanidine | 15.3 mmol, 2.24 g | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
reactant | 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid | 7.63 mmol, 2.6 g | ClC1=CC2=CN(N=C2C(=C1)CC(=O)O)COCC[Si](C)(C)C | C15H21ClN2O3Si
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | Methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetate | ClC1=CC2=CN(N=C2C(=C1)CC(=O)OC)COCC[Si](C)(C)C | C16H23ClN2O3Si
